US04361559
(E) 17-(Ethylthio)-9-fluoro-11β-hydroxy-17-(methylthio)androsta-1,4-diene-3-one
A solution of 11β-acetyloxy-17-(ethylthio)-9-fluoro-17-(methylthio)androsta-1,4-diene-3-one (620 mg) in a mixture of methanol (20 ml) and tetrahydrofuran (10 ml) is stirred under nitrogen with 3 M aqueous sodium hydroxide (1.5 ml). After eighteen hours, a slight excess of acetic acid is added. The mixture is concentrated in vacuo, diluted with water and extracted with chloroform. The chloroform solution is washed with water, dried, evaporated and chromatographed over a column of silica gel (10 g) eluting the column successively with chloroform-hexane (4:1), chloroform and chloroform-ethyl acetate (95:5) to isolate the title compound (550 mg). Crystallization of this from ethyl acetate-hexane and drying (110° C., 0.3 mm of Hg, 7 hours) gives the analytical specimen, melting point 275° C., dec. (contracts from approximately 200° C., discoloration starts from approximately 220° C. and becomes deeper until spontaneous melting at 275° C. with decomposition) with consistent spectral data. The nmr spectrum shows that this is an essentially 1:1 mixture of the two 17-stereoisomers.

reactant | 11β-acetyloxy-17-(ethylthio)-9-fluoro-17-(methylthio)androsta-1,4-diene-3-one | 620 mg | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CCC([C@@]2(C)C1)(SC)SCC)=O)C)F | C24H33FO3S2
reactant | sodium hydroxide | 3 M, 1.5 ml | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 20 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 17-(Ethylthio)-9-fluoro-11β-hydroxy-17-(methylthio)androsta-1,4-diene-3-one | 550 mg | C(C)SC1([C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C=C[C@]3(C)[C@]1([C@H](C2)O)F)=O)SC | C22H31FO2S2
